US06897231B2
B. 3-{3-[(2-Methoxyethyl)amino]phenyl}-1H-indazole-5-carboxamide
In a suspension of 3-{3-[(2-methoxyethyl)amino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide in 20 mL of toluene was bubbled HCl gas for 20 min. The reaction was then stirred at room temperature overnight. The mixture was neutralized with an aqueous saturated solution of NaHCO3 and was concentrated to dryness under reduced pressure. After 2 preparatory HPLC purifications, a small amount of pure material was isolated. (0.015 g, 8% over 2 steps): 1H NMR (CD3OD) δ 8.59 (dd, 1H), 7.91 (d, 1H), 7.56 (ds, 1H), 7.29-7.20 (m, 3H), 6.73 (dt, 1H), 3.61 (t, 2H), 3.36 (s, 3H), 3.334 (t, 2H); ES-MS (m/z) 311 [M+H]+.

reactant | 3-{3-[(2-methoxyethyl)amino]phenyl}-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | COCCNC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C22H26N4O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-[(2-Methoxyethyl)amino]phenyl}-1H-indazole-5-carboxamide | COCCNC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C17H18N4O2
